US04312870
The mixture of 0.7 g of 2-(p-aminophenyl)-pyrazolo[4,3-c]quinolin-3(5H)-one, 1.4 g of methylisocyanate and 25 ml of methanol is refluxed for 7 hours and allowed to stand at room temperature overnight. It is evaporated, the residue treated with diluted aqueous sodium hydroxide and diethyl ether, the aqueous solution separated, washed with diethyl ether and its pH adjusted to 8.5 with ammonium chloride. The precipitate formed is collected, washed with methanol, then with diethyl ether and dried, to yield the 2-(p-methylcarbamoylaminophenyl)-pyrazolo[4,3-c]quinolin3(5H)-one, showing IR-peaks of 895, 869, 850, 825, 816, 812, 785, 780, 767 and 738 cm-1.

reactant | 2-(p-aminophenyl)-pyrazolo[4,3-c]quinolin-3(5H)-one | 0.7 g | NC1=CC=C(C=C1)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C16H12N4O
reactant | methylisocyanate | 1.4 g | CN=C=O | C2H3NO
solvent | methanol | 25 ml | CO | CH4O
product | 2-(p-methylcarbamoylaminophenyl)-pyrazolo[4,3-c]quinolin3(5H)-one | CNC(=O)NC1=CC=C(C=C1)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C18H15N5O2
